US04146721
The procedure described in the foregoing Example (54d) was modified, by omitting the direct hydrolysis with a mixture of ice and water. Instead, the reaction mixture was diluted by the addition of 500 milliliters methanol, and by the addition of a solution of 65 grams sodium perchlorate-monohydrate in methanol, [[1-phenyl-3-(p-chlorophenyl)-pyrazol-4-y]-methylene]-dimethylammonium perchlorate, having a melting point of 256°-258° C., was nearly quantitatively precipitated. This product was thereafter subjected to alkaline hydrolysis in a manner similar to that described in Example (54d) to produce the 1-phenyl-3-(p-chlorophenyl)-pyrazol-4-aldehyde.

reactant | water | O | H2O
reactant | sodium perchlorate-monohydrate | 65 grams | O.Cl(=O)(=O)(=O)[O-].[Na+]
reactant | [[1-phenyl-3-(p-chlorophenyl)-pyrazol-4-y]-methylene]-dimethylammonium perchlorate | Cl(=O)(=O)(=O)[O-].C1(=CC=CC=C1)N1N=C(C(=C1)C=[N+](C)C)C1=CC=C(C=C1)Cl
solvent | methanol | CO | CH4O
solvent | methanol | 500 milliliters | CO | CH4O
product | 1-phenyl-3-(p-chlorophenyl)-pyrazol-4-aldehyde | C1(=CC=CC=C1)N1N=C(C(=C1)C=O)C1=CC=C(C=C1)Cl | C16H11ClN2O
